US04371720
3,4-Dihydro-2-methoxy-7-hydroxy-2,4-propano-2H-1-benzopyran-9-propanol
A solution of 1.5 g. (5.68 mmole) of trans-3-(2,4-dihydroxyphenyl)-4-(3-hydroxypropyl)cyclohexanone in 40 ml. methanol, 6 ml. trimethylorthoformate and 7 drops of concentrated sulfuric acid was stirred at 0° C. for 45 minutes. The reaction was quenched by the addition of excess solid sodium bicarbonate and then evaporated on a rotovapor. The residue was diluted with 300 ml. saturated sodium bicarbonate-300 ml. ether. The ether extract was dried over magnesium sulfate and evaporated. The crude product was purified via column chromatography on 150 g. of silica gel eluted in 15 ml. fractions with ether to yield 1.29 g. (82%) of the title compound as an oil.

reactant | trans-3-(2,4-dihydroxyphenyl)-4-(3-hydroxypropyl)cyclohexanone | 5.68 mmole | OC1=C(C=CC(=C1)O)[C@@H]1CC(CC[C@H]1CCCO)=O | C15H20O4
reactant | trimethylorthoformate | COC(OC)OC | C4H10O3
catalyst | sulfuric acid | 7 drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | 3,4-Dihydro-2-methoxy-7-hydroxy-2,4-propano-2H-1-benzopyran-9-propanol | 82% | COC12OC3=C(C(C1)C(CC2)CCCO)C=CC(=C3)O | C16H22O4
